US06002008
6-Amino-4-[(3-bromophenyl)amino]-8-dimethylaminomethyl-3-quinolinecarbonitrile
A stirred mixture of 4-[(3-bromophenyl)amino]-8-dimethylaminomethyl-6-nitro-3-quinolinecarbonitrile (5.98 g, 14.1 mmol), iron powder (2.76 g, 49 mg-atoms), acetic acid (5.67 ml, 99 mmol), and 70 ml of methanol was refluxed for 2 h and then evaporated to remove methanol. The residue was stirred with water for 10 m, and the orange solid was filtered off and washed with 2% acetic acid. The total filtrate was basified to pH 10 with 5 N sodium hydroxide. The resulting precipitate was extracted with methylene chloride. The extract was washed with water, dried, and concentrated. The residue was subjected to chromatography on silica gel with ethyl acetate-methanol-triethylamine to give 3.34 g of amber solid; mass spectrum (electrospray, m/e) M+H 396.2, 398.1.

reactant | 4-[(3-bromophenyl)amino]-8-dimethylaminomethyl-6-nitro-3-quinolinecarbonitrile | 14.1 mmol, 5.98 g | BrC=1C=C(C=CC1)NC1=C(C=NC2=C(C=C(C=C12)[N+](=O)[O-])CN(C)C)C#N | C19H16BrN5O2
reactant | acetic acid | 99 mmol, 5.67 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 2.76 g | [Fe] | Fe
solvent | methanol | 70 ml | CO | CH4O
product | 6-Amino-4-[(3-bromophenyl)amino]-8-dimethylaminomethyl-3-quinolinecarbonitrile | 3.34 g | NC=1C=C2C(=C(C=NC2=C(C1)CN(C)C)C#N)NC1=CC(=CC=C1)Br | C19H18BrN5
